US08293897B2
Step 2) (S)-1-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)pyrrolidin-2-one
To a mixture of NaH (0.48 g, 12 mmol, 60% mineral oil, Aldrich) in 15 mL of DMF was added a solution of (S)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)pyrrolidin-2-one (2 g, 10 mmol) in 5 mL of DMF via a syringe at −40° C. The reaction was stirred at −40° C. for 1 hr. CH3I (0.9 mL, 12 mmol, Shanghai Jingchun Reagent Ltd.) was added dropwise via a syringe. The reaction was continued to stir at −40° C. for 4 hrs, and was quenched with 10 mL of saturated NaHSO3 aqueous solution. The mixture was extracted with ethyl acetate (50 mL×3). The combined organic phases were dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc) to give the desired product as colorless oil (1.98 g, 92%).

reactant | NaH | 12 mmol, 0.48 g | [H-].[Na+]
reactant | (S)-5-((tetrahydro-2H-pyran-2-yloxy)methyl)pyrrolidin-2-one | 10 mmol, 2 g | O1C(CCCC1)OC[C@@H]1CCC(N1)=O | C10H17NO3
reactant | CH3I | 12 mmol, 0.9 mL | CI | CH3I
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (S)-1-methyl-5-((tetrahydro-2H-pyran-2-yloxy)methyl)pyrrolidin-2-one | 1.98 g, 92% | CN1C(CC[C@H]1COC1OCCCC1)=O | C11H19NO3
